US06987114B1
1-(Pyridin-3-ylmethyl)-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and 3-picolyl chloride were reacted by the same way with the example 1 to obtain the titled compound (101 mg, yield: 28.7%).

reactant | 5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O3
reactant | 3-picolyl chloride | N1=CC(=CC=C1)CCl | C6H6ClN
product | 1-(Pyridin-3-ylmethyl)-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 101 mg, yield: 28.7% | N1=CC(=CC=C1)CN1C(NC(C(=C1OC1=CC(=CC(=C1)C)C)CC)=O)=O | C20H21N3O3
